US04895861
(Step 1) Preparation of 5-Bromo-2-hydroxymethylnaphthalene
To a stirred solution of 5-bromonaphthalene-2-carboxylic acid (10.04 g, 40 mmol) in dry THF (400 mL) cooled to 0° C. was added BH3 ·THF (54 mL, 54 mmol; 1.0M solution in THF) dropwise over 45 minutes. The resulting solution was stirred overnight while warming to room temperature. The excess BH3 was quenched by the addition of H2O (200 mL) at 0° C. and the volatiles were removed in vacuo. The aqueous residue was extracted with Et2O (2×250 mL) and the combined organic layers were dried (MgSO4) and concentrated in vacuo to give the title compound as a colorless liquid which solidified to a white solid upon standing (9.48 g, 100%). This material was of adequate purity to be used as such in the next step.

reactant | 5-bromonaphthalene-2-carboxylic acid | 40 mmol, 10.04 g | BrC1=C2C=CC(=CC2=CC=C1)C(=O)O | C11H7BrO2
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 5-Bromo-2-hydroxymethylnaphthalene | BrC1=C2C=CC(=CC2=CC=C1)CO | C11H9BrO
